US06340704B1
10-(1,3-Benzodioxole-5-yl)-1,3-dioxolo[4,5-f]furo[3,4-b]quinolin-7(9 H)-one
Diethyl 9-(1,3-benzodioxole-5-yl)-1,3-dioxolo[4,5- f]furo[3,4-b]quinoline-7(9H)-one dicarboxylate (2.4 g) was added gradually to a suspension of LAH (lithium aluminium hydride (2.0 g) in THF (50 ml) at 0° C. The mixture was stirred at room temperature for one hour, followed by addition of water to stop the reaction. The resulting precipitate was filtered off through Celite®. The filtrate was extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in ethanol (100 ml) and, with addition of 10% Pd-C (2.5 g), stirred at room temperature overnight. The catalyst was filtered off, and the solvent was distilled off under reduced pressure. The residue was dissolved in chloroform (300 ml), followed by addition of manganese dioxide (20 g). The mixture was stirred at room temperature for 3 hours. The manganese dioxide was filtered off through Celite®. The filtrate was concentrated under reduced pressure. The resulting crude crystals were washed with diisopropyl ether to yield the title compound (0.9 g). Some portions of the compound were recrystalized from THF to be used for elemental and instrumental analysis.

reactant | Diethyl 9-(1,3-benzodioxole-5-yl)-1,3-dioxolo[4,5- f]furo[3,4-b]quinoline-7(9H)-one dicarboxylate | 2.4 g | O1COC2=C1C=CC(=C2)C2OC(C1=NC=3C=C(C4=C(C3C=C12)OC(O4)C(=O)OCC)C(=O)OCC)=O | C25H19NO10
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | lithium aluminium hydride | 2.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 10-(1,3-Benzodioxole-5-yl)-1,3-dioxolo[4,5-f]furo[3,4-b]quinolin-7(9 H)-one | 0.9 g | O1COC2=C1C=CC(=C2)C2=C1C(=NC3=CC=C4C(=C23)OCO4)C(OC1)=O | C19H11NO6
